US04377579
To a stirred solution of 0.006 mole (1.5 g) of 9-methoxyphenazine-1-carboxylic acid and 0.006 mole (0.61 g) of 5-aminotetrazole monohydrate in 50 ml of pyridine was added dropwise 0.012 mole (1.4 g) of thionyl chloride. The mixture was warmed to 70° C., maintained at 70° C. for 20 minutes, then diluted with water. A solid product was separated from the mixture by filtration, washed with water and acetone, and dried. Recrystallization from N,N-dimethylformamide provided 9-methoxy-(N-tetrazol-5-yl)phenazine-1-carboxamide, in the form of orange needles, m.p. 325°-330° C. (dec.)

reactant | 9-methoxyphenazine-1-carboxylic acid | 0.006 mole, 1.5 g | COC=1C=CC=C2N=C3C=CC=C(C3=NC12)C(=O)O | C14H10N2O3
reactant | 5-aminotetrazole monohydrate | 0.006 mole, 0.61 g | O.NC1=NN=NN1
reactant | thionyl chloride | 0.012 mole, 1.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 9-methoxy-(N-tetrazol-5-yl)phenazine-1-carboxamide | COC=1C=CC=C2N=C3C=CC=C(C3=NC12)C(=O)NC1=NN=NN1 | C15H11N7O2
